### PR TITLE
chore: add paper snippets of alive into a separate file

### PR DESCRIPTION
**Pull request by bollu**
This adds the two examples we want to show of our alive proof automation in the paper.

### CODE REVIEW

File: SSA/Projects/InstCombine/PaperExamples.lean [hunk 1]
```diff
@@ -0,0 +1,110 @@
...
+
+open MLIR AST
+open Std (BitVec)
+open Ctxt (Var DerivedCtxt)
+open InstCombine (MOp)
+open Lean
+
+namespace AliveHandwritten
+set_option pp.proofs false
+set_option pp.proofs.withType false
```
Comment (goens) [inline SSA/Projects/InstCombine/PaperExamples.lean:23]: ibid

File: SSA/Projects/InstCombine/PaperExamples.lean [hunk 2]
```diff
@@ -0,0 +1,110 @@
...
+
+
+theorem xor_allOnes_eq_not (x: _root_.BitVec w) :
+  x ^^^ (BitVec.allOnes w) = ~~~ x:= by
+  ext i
+  simp
+
+-- example proof of pure bitvector reasoning.
+-- This is closed automatically by proof automation.
+example (w : Nat) :
```
Comment (goens) [inline SSA/Projects/InstCombine/PaperExamples.lean:33]: this example is not going to the paper, right? should we remove it from here?

File: SSA/Projects/InstCombine/PaperExamples.lean [hunk 3]
```diff
@@ -0,0 +1,110 @@
...
+  %v1 = llvm.and %X, %C2
+  %v2 = llvm.xor %X, %C1
+  %v3 = llvm.and %C1, %C2
+  %v4 = llvm.xor %v1, %v3
+  llvm.return %v4
+  }] := by simp_alive_peephole; alive_auto
+
+-- example proof of add plus xor.
+-- This is an easy alive statement.
+example (w : Nat) :
```
Comment (goens) [inline SSA/Projects/InstCombine/PaperExamples.lean:50]: this example is not going to the paper, right? should we remove it from here?

File: SSA/Projects/InstCombine/PaperExamples.lean [hunk 4]
```diff
@@ -0,0 +1,110 @@
...
+import Lean
+
+open MLIR AST
+open Std (BitVec)
+open Ctxt (Var DerivedCtxt)
+open InstCombine (MOp)
+open Lean
+
+namespace AliveHandwritten
+set_option pp.proofs false
```
[the remark this answers is not in the document]
Comment (bollu) [reply SSA/Projects/InstCombine/PaperExamples.lean]: Deleted.

File: SSA/Projects/InstCombine/PaperExamples.lean (hunk 2 above)
Comment (bollu) [reply SSA/Projects/InstCombine/PaperExamples.lean]: Deleted.

File: SSA/Projects/InstCombine/PaperExamples.lean (hunk 3 above)
Comment (bollu) [reply SSA/Projects/InstCombine/PaperExamples.lean]: Deleted.

**Review by goens — APPROVED** [review]
